US08703810B2
To a solution of methyl 4-methoxy-2-methylbenzoate (11.4 g, 63.3 mmol) in THF (65 mL) at 0° C., LiAlH4 (1M in ether, 76.0 mL, 75.9 mmol) was added via addition funnel over 50 min. The ice water bath was removed, and the reaction was allowed to stir at room temperature for 30 min. Upon completion, the reaction was cooled to 0° C. and sodium sulfate decahydrate was added portionwise until the bubbling ceased. The reaction was then diluted with ether and filtered. The filtrate was concentrated under reduced pressure to give (4-methoxy-2-methylphenyl)methanol (8.2 g) as a clear oil. 1H NMR (300 MHz, CDCl3): δ 7.23 (d, 1H), 6.72 (m, 2H), 4.63 (d, 2H), 3.79 (s, 3H), 2.36 (s, 3H), 1.42 (t, 1H).

reactant | methyl 4-methoxy-2-methylbenzoate | 63.3 mmol, 11.4 g | COC1=CC(=C(C(=O)OC)C=C1)C | C10H12O3
reactant | LiAlH4 | 75.9 mmol, 1M, 76.0 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | (4-methoxy-2-methylphenyl)methanol | 8.2 g | COC1=CC(=C(C=C1)CO)C | C9H12O2
